US05075317
a) 1-Ethoxycarbonyl-4-hydroxy-4-[2-(dimethylaminomethyl)-2-propenyl]piperidine
2-[(Dimethylamino)methyl]propene (29.75 g, 300 mmol) in anhydrous THF (300 ml) was cooled to -78° and butyl lithium (2.5M, 120 ml, 300 mmol) was added dropwise, the temperature of addition being maintained below 0°. The dry-ice bath was replaced by an ice-bath and the reaction mixture maintained at 0° for 3 hours and then cooled to -78°. 1-Ethoxycarbonyl-4-piperidinone (25.68 g, 150 mmol) in anhydrous THF (50 ml) was added dropwise and the reaction mixture maintained at -78° for 1.5 hours and then stirred at room temperature overnight. Approximately 50 g of ice was added and the reaction mixture washed with saturated NaCl several times and dried (MgSO4), yielding a tan, viscous oil (42.47 g). Purification by flash chromatography eluting with ethylacetate in hexane gave the sub-title compound (9.33 g)

reactant | 2-[(Dimethylamino)methyl]propene | 300 mmol, 29.75 g | CN(C)CC(=C)C | C6H13N
reactant | butyl lithium | 300 mmol, 2.5M, 120 ml | C(CCC)[Li]
reactant | dry-ice | C(=O)=O | CO2
reactant | 1-Ethoxycarbonyl-4-piperidinone | 150 mmol, 25.68 g | C(C)OC(=O)N1CCC(CC1)=O | C8H13NO3
solvent | THF | 300 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-Ethoxycarbonyl-4-hydroxy-4-[2-(dimethylaminomethyl)-2-propenyl]piperidine | 42.47 g | C(C)OC(=O)N1CCC(CC1)(CC(=C)CN(C)C)O | C14H26N2O3
